US05864039
1H-NMR (CDCl3,ppm)δ: 1.42-1.86(17 H,m), 2.22-2.50(6 H,m), 3.09-3.19(7 H,m), 4.68(1 H,br), 7.54-7.70(3 H,m), 7.89-7.93(2 H,m) (2) 4-Methoxy-1-(4-phenylsulfonylbutyl)-4-tert-butoxycarbonylaminomethylpiperidine (2.58 g) and 15% hydrochloric acid-isopropyl alcohol (15 ml) were reacted and treated in the same manner as in Preparation Example 138(2) to give 2.2 g of 4-aminomethyl-4-methoxy-1-(4-phenylsulfonylbutyl)piperidine dihydrochloride.

reactant | 4-Methoxy-1-(4-phenylsulfonylbutyl)-4-tert-butoxycarbonylaminomethylpiperidine | 2.58 g | COC1(CCN(CC1)CCCCS(=O)(=O)C1=CC=CC=C1)CNC(=O)OC(C)(C)C | C22H36N2O5S
reactant | hydrochloric acid isopropyl alcohol | 15 ml | Cl.C(C)(C)O
product | 4-aminomethyl-4-methoxy-1-(4-phenylsulfonylbutyl)piperidine dihydrochloride | 2.2 g | Cl.Cl.NCC1(CCN(CC1)CCCCS(=O)(=O)C1=CC=CC=C1)OC | InChI=1S/C17H28N2O3S.2ClH/c1-22-17(15-18)9-12-19(13-10-17)11-5-6-14-23(20,21)16-7-3-2-4-8-16;;/h2-4,7-8H,5-6,9-15,18H2,1H3;2*1H
